US04929639
A solution of (2R,4R)-4-t-butyldimethylsiloxymethyl -5-ethoxycarbonylmethylene-2-methyl-1,3-dioxane (17.0 g) in ethanol (170 ml) was shaken under hydrogen (3 atm) with 10% palladium on carbon at room temperature for 1.5 hours. After removal of the catalyst by filtration, the solvent was evaporated in vacuo and the residue was chromatographed on a silica gel column (500 g) with a mixture of n-hexane and ethyl acetate (20:1) as an eluent to give (2R,4R,5S)-4-t-butyldimethylsiloxymethyl-5 -ethoxycarbonylmethyl-2-methyl-1,3-dioxane (9.52 g) as a pale yellow oil.

reactant | (2R,4R)-4-t-butyldimethylsiloxymethyl -5-ethoxycarbonylmethylene-2-methyl-1,3-dioxane | 17.0 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OCC1=CC(=O)OCC)C | C16H30O5Si
solvent | ethanol | 170 ml | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (2R,4R,5S)-4-t-butyldimethylsiloxymethyl-5 -ethoxycarbonylmethyl-2-methyl-1,3-dioxane | 9.52 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1O[C@@H](OC[C@@H]1CC(=O)OCC)C | C16H32O5Si
